US06875895B2
Synthesis of 9,10-bis[2-(4-bromophenyl)-2-phenylethenyl]anthracene
Under an inert atmosphere, 4-bromobenzophenone (3.917 g, 15 mmol), and 9,10-bis-(diethylphosphonomethyl)anthracene (2.942 g, 6.15 mmol) were dissolved in tetrahydrofuran (40 g). At room temperature, tetrahydrofuran (16.38 g) solution of tert-butoxy potassium (2.070 g, 18.45 mmol) was added dropwise for 5 minutes, and successively stirred for 3.5 hours. The reaction mixture was charged into water (100 ml) and neutralized with 5% sulfuric acid. After neutralization, the crystal was filtrated and the dissolved in tetrahydrofuran (300 ml). Then, the solvent was partly distilled off under reduced pressure, and cooled to deposit crystal. The crystal was filtrated and dried to give the desired product. (Yield: 1.10 g, 26%)

reactant | 4-bromobenzophenone | 15 mmol, 3.917 g | BrC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9BrO
reactant | 9,10-bis-(diethylphosphonomethyl)anthracene | 6.15 mmol, 2.942 g | C(C)OP(=O)(OCC)CC=1C2=CC=CC=C2C(=C2C=CC=CC12)CP(=O)(OCC)OCC | C24H32O6P2
reactant | tert-butoxy potassium | 18.45 mmol, 2.070 g | C(C)(C)(C)O[K]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 40 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 16.38 g | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 9,10-bis[2-(4-bromophenyl)-2-phenylethenyl]anthracene | BrC1=CC=C(C=C1)C(=CC=1C2=CC=CC=C2C(=C2C=CC=CC12)C=C(C1=CC=C(C=C1)Br)C1=CC=CC=C1)C1=CC=CC=C1 | C42H28Br2
